US07557136B2
A solution of methyl [(2S)-1-(biphenyl-4-ylcarbonyl)-4-oxopyrrolidin-2-yl]acetate (43 mg, 0.13 mmol), hydroxylamine methyl ether hydrochloride (32 mg, 0.38 mmol) and triethylamine (53 μl, 0.38 mmol) in chloroforme (3 ml) was stirred at 70° C. for 5 days. The reaction mixture was diluted with dichloromethane and washed with HCl 1N. The organic phase was dried (MgSO4) and concentrated to afford methyl [(2S,4EZ)-1-(biphenyl-4-yl-carbonyl)--4-(methoxyimino)pyrrolidin-2-yl]acetate (40 mg). Yield: 62%. HPLC purity: 94%

reactant | methyl [(2S)-1-(biphenyl-4-ylcarbonyl)-4-oxopyrrolidin-2-yl]acetate | 0.13 mmol, 43 mg | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=O)CC(=O)OC)C1=CC=CC=C1 | C20H19NO4
reactant | hydroxylamine methyl ether hydrochloride | 0.38 mmol, 32 mg | CO[NH3+].[Cl-]
reactant | triethylamine | 0.38 mmol, 53 μl | C(C)N(CC)CC | C6H15N
solvent | chloroforme | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl [(2S,4EZ)-1-(biphenyl-4-yl-carbonyl)--4-(methoxyimino)pyrrolidin-2-yl]acetate | 40 mg, Yield: 62% | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)CC(=O)OC)C1=CC=CC=C1 | C21H22N2O4
